US05569653
N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2,3-dihydro-5-(triisopropylsilyl)oxy-1H-isoindole difumarate
A mixture of 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine (1.52 g, 5.73 mmol), 1,2-dibromo-4-(triisopropylsilyl)oxy-xylene (2.4 g, 5.7 mmol) and K2CO3 (1.8 g, 13 mmol) in acetonitrile (300 ml) was stirred overnight (18 hours) at room temperature. The mixture was filtered and the solvent was stripped. The residue was purified by flash chromatography over a silica gel column (7 gm of SiO2 ; eluted with 1-3% CH3OH in dichloromethane. The product thus purified (weight: 900 mg) was converted to the fumarate salt by treatment with fumaric acid (194 mg) in hot ethanol. The crystals were collected and weighed 590 mg, m.p. 208°-210° C.

reactant | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine | 5.73 mmol, 1.52 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN)C=C1 | C14H18FN3O
reactant | 1,2-dibromo-4-(triisopropylsilyl)oxy-xylene | 5.7 mmol, 2.4 g | BrC1(C(C=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)(C)Br)C | C17H30Br2OSi
reactant | K2CO3 | 13 mmol, 1.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2,3-dihydro-5-(triisopropylsilyl)oxy-1H-isoindole difumarate | C(\C=C\C(=O)O)(=O)O.C(\C=C\C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2CC3=CC=C(C=C3C2)O[Si](C(C)C)(C(C)C)C(C)C)C=C1 | InChI=1S/C31H44FN3O2Si.2C4H4O4/c1-21(2)38(22(3)4,23(5)6)37-28-9-7-25-19-35(20-26(25)17-28)16-15-34-13-11-24(12-14-34)31-29-10-8-27(32)18-30(29)36-33-31;2*5-3(6)1-2-4(7)8/h7-10,17-18,21-24H,11-16,19-20H2,1-6H3;2*1-2H,(H,5,6)(H,7,8)/b;2*2-1+
